US05753682
3. 3-Fluoro(2-methylimidazol-1-yl)benzyl alcohol
Prepared from 2-methylimidazole and ethyl 3,4-difluorobenzoate.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | ethyl 3,4-difluorobenzoate | FC=1C=C(C(=O)OCC)C=CC1F | C9H8F2O2
product | 3-Fluoro(2-methylimidazol-1-yl)benzyl alcohol | FC=1C=C(C(N2C(=NC=C2)C)O)C=CC1 | C11H11FN2O
